US05409943
(b) N-(3-(4-Methoxybenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)guanidine
A mixture of yellow mercuric oxide (1.05 g, 0.00488 mol), N-[3-(4-methoxybenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (1.5 g, 0.0041 mol)and methanolic ammonia solution (40 ml) was stirred for 2 days at room temperature. The solvent was removed in vacuo and the black residue was boiled with chloroform and filtered hot. Evaporation of the solvent followed by trituration with ether and recrystallisation from acetonitrile gave the desired product. Yield 0.96 g (61.5%) m.p. 165°-166 ° C.

reactant | N-[3-(4-methoxybenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0041 mol, 1.5 g | COC1=CC=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C=C1 | C20H18ClN3O2S
reactant | ammonia | 40 ml | N | H3N
product | N-(3-(4-Methoxybenzyloxy)pyrid-2-yl)-N'-(4-chlorophenyl)guanidine | COC1=CC=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C=C1 | C20H19ClN4O2
